US07612091B2
7-Chloro-isochromen-1-one
Concentrated sulphuric acid (15 ml) was added to 5-chloro-2(2-methoxyvinyl)-benzoic acid (4.43 g) at 0° C. The mixture was stirred for 2 hours, then diluted with ice/water. The product was extracted with ethyl acetate (3×15 ml) and the combined extracts washed with saturated sodium bicarbonate solution. The solution was dried (magnesium sulfate), filtered and concentrated. The residue was purified by flash chromatography (0-5% ethyl acetate/hexane) to afford the sub-title compound as a white solid (3.04 g, 81%); mp 109.8-110.9° C.; 1H NMR (400 MHz, CDCl3) δ 6.51(1H, d), 7.28-7.32(1H, m), 7.41(1H, d), 7.64-7.70(1H, m), 8.28(1H, m).

reactant | sulphuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | 5-chloro-2(2-methoxyvinyl)-benzoic acid | 4.43 g | ClC=1C=CC(=C(C(=O)O)C1)C=COC | C10H9ClO3
product | 7-Chloro-isochromen-1-one | 3.04 g, 81% | ClC1=CC=C2C=COC(C2=C1)=O | C9H5ClO2
